US06825188B2
(d) (±)-3-Oxo-8-[3-[N-(pyridin-2-yl)-N-(benzoyl)amino]-1-propyloxy]-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
According to the procedure of Example 1(c) except substituting methyl(±)-3-oxo-8-[3-[N-(pyridin-2-yl)-N-(benzoyl)amino]-1-propyloxy]-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, for the ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate, the crude title compound was prepared. Purification by ODS chromatography (10-80% CH3CN/H2O containing 0.1% TFA over 1 h), concentration and lyophilization gave the title compound (0.025 g, 10%): MS (ES) m/e 632.4 (M+H)+. Anal. Calcd for C35H32 F3N3O5.0.85 CF3CO2H: C, 60.50; H, 4.54; N, 5.74. Found: C, 60.22; H, 4.35; N, 5.77.

reactant | methyl(±)-3-oxo-8-[3-[N-(pyridin-2-yl)-N-(benzoyl)amino]-1-propyloxy]-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | O=C1N(CC2=C(CC1CC(=O)OC)C=CC(=C2)OCCCN(C(C2=CC=CC=C2)=O)C2=NC=CC=C2)CC2=CC=C(C=C2)C(F)(F)F | C36H34F3N3O5
reactant | ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
product | (±)-3-Oxo-8-[3-[N-(pyridin-2-yl)-N-(benzoyl)amino]-1-propyloxy]-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | 0.025 g, 10% | O=C1N(CC2=C(CC1CC(=O)O)C=CC(=C2)OCCCN(C(C2=CC=CC=C2)=O)C2=NC=CC=C2)CC2=CC=C(C=C2)C(F)(F)F | C35H32F3N3O5
